US09388195B2
B) Production of 6-bromo-2-(pyrrolidin-1-ylmethyl)thieno[3,2-d]pyrimidin-4 (3H)-one
To a mixture of pyrrolidine (2.2 mL), potassium carbonate (2.5 g), sodium iodide (134 mg) and N,N-dimethylformamide (40 mL) was added 6-bromo-2-(chloromethyl)thieno[3,2-d]pyrimidin-4 (3H)-one (2.5 g), and the mixture was stirred at 70° C. for 30 min. Insoluble material was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was washed with a small amount of ethyl acetate to give the title compound (1.5 g) as a pale-yellow solid. The filtrate was purified by basic silica gel column chromatography (methanol/ethyl acetate) to give the title compound (0.87 g) as a pale-yellow solid. The total yield of the title compound was 2.37 g.

reactant | pyrrolidine | 2.2 mL | N1CCCC1 | C4H9N
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 134 mg | [I-].[Na+]
reactant | 6-bromo-2-(chloromethyl)thieno[3,2-d]pyrimidin-4 (3H)-one | 2.5 g | BrC1=CC=2N=C(NC(C2S1)=O)CCl | C7H4BrClN2OS
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 6-bromo-2-(pyrrolidin-1-ylmethyl)thieno[3,2-d]pyrimidin-4 (3H)-one | 1.5 g | BrC1=CC=2N=C(NC(C2S1)=O)CN1CCCC1 | C11H12BrN3OS
